US08633173B2
[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(2-pyridin-3-yl-ethyl)-amine was prepared from 2-chloro-8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine (250 mg, 0.81 mmol) and 2-pyridin-3-yl-ethylamine (0.95 mL, 8.1 mmol) in a manner analogous to Example 406. Product isolated as a light yellow powder (98.5 mg, 31%). 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 8.71 (d, J=6.4 Hz, 1H), 8.51 (m, 1H), 8.39 (d, J=7.8 Hz, 2H), 8.03 (d, J=7.4 Hz, 2H), 7.86 (d, J=7.4 Hz, 1H), 7.70 (t, J=15.1, 7.6 Hz, 1H), 7.30 (m, 1H), 7.22 (m, 1H), 7.04 (t, J=13.9, 7.3 Hz, 1H), 6.86 (m, 1H), 3.62 (m, 2H), 3.28 (s, 3H), 3.06 (m, 2H). MS=394 (MH)+.

reactant | 2-chloro-8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine | 0.81 mmol, 250 mg | ClC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)S(=O)(=O)C)=N1 | C13H10ClN3O2S
reactant | 2-pyridin-3-yl-ethylamine | 8.1 mmol, 0.95 mL | N1=CC(=CC=C1)CCN | C7H10N2
product | [8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(2-pyridin-3-yl-ethyl)-amine | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NCCC=2C=NC=CC2 | C20H19N5O2S
